US08222417B2
To a solution of methyl 4-aminoadamantane-1-carboxylate obtained in Reference Example 11 (1.87 g) in tetrahydrofuran (20 ml), water (10 ml), benzyl chloroformate (1.53 g) and sodium carbonate (1.13 g) were added and stirred at room temperature for 5 hours. Benzyl chloroformate (0.76 g) was further added and stirred at room temperature for 2 hours. After insoluble materials were filtered off, the solvent was concentrated and the residue was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and then filtered to remove the desiccant, followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: chloroform:methanol=200:1 to 100:1) to give methyl 4-{[2-(benzyloxy)-2-oxoethyl]amino}-adamantane-1-carboxylate (3.30 g) as a colorless powder.

reactant | methyl 4-aminoadamantane-1-carboxylate | NC1C2CC3(CC(CC1C3)C2)C(=O)OC | C12H19NO2
reactant | benzyl chloroformate | 1.53 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | 1.13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Benzyl chloroformate | 0.76 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | methyl 4-{[2-(benzyloxy)-2-oxoethyl]amino}-adamantane-1-carboxylate | 3.30 g | C(C1=CC=CC=C1)OC(CNC1C2CC3(CC(CC1C3)C2)C(=O)OC)=O | C21H27NO4
